US07560551B2
2-(2-Bromophenoxy)pyrimidin-5-amine (3.01 g, 11.3 mmol), 1-chloro-4-phenylphthalazine (2.72 g, 11.3 mmol), and butan-2-ol (56.6 ml, 11.3 mmol) were placed in a sealed tube. The reaction vessel was sealed and mixture heated to 120° C. After 1.5 h, LCMS showed mainly product as [M+H]+=470 and a small amount of bromo starting material. 200 mg of phthalazine was added. After another 3.5 h, the reaction was cooled to RT. Hexane was added to allow a yellow solids to precipitate. The yellow solids were filtered and recrystallized with DCM and hexanes. The resulting dark brown solids were dried under vacuum overnight, affording the product, N-(2-(2-bromophenoxy)pyrimidin-5-yl)-4-phenylphthalazin-1-amine.

reactant | 2-(2-Bromophenoxy)pyrimidin-5-amine | 11.3 mmol, 3.01 g | BrC1=C(OC2=NC=C(C=N2)N)C=CC=C1 | C10H8BrN3O
reactant | 1-chloro-4-phenylphthalazine | 11.3 mmol, 2.72 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | butan-2-ol | 11.3 mmol, 56.6 ml | CC(CC)O | C4H10O
reactant | phthalazine | 200 mg | C1=NN=CC2=CC=CC=C12 | C8H6N2
solvent | Hexane | CCCCCC | C6H14
product | N-(2-(2-bromophenoxy)pyrimidin-5-yl)-4-phenylphthalazin-1-amine | BrC1=C(OC2=NC=C(C=N2)NC2=NN=C(C3=CC=CC=C23)C2=CC=CC=C2)C=CC=C1 | C24H16BrN5O
